### PR TITLE
feat(RCLike): add `Continuous.re` and similar

### PR DESCRIPTION
**Pull request by ster-oc**
This PR adds dot notation for `re`, `im`, `conj` and `ofReal` for `Continuous`, `LipschitzWith` and `Memℓp`.
Given `hf : Continuous f` it allows to use `hf.re` to express `Continuous (fun x ↦ (f x).re)`, similarly to the usual `hf.add hg`.

I also can add the same features for `Summable` but I am not sure where to place them, suggestions are appreciated!

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 1]
```diff
@@ -1034,6 +1039,37 @@ theorem reCLM_apply : ((reCLM : StrongDual ℝ K) : K → ℝ) = re :=
...
+    Continuous (fun x ↦ re (f x)) := continuous_re.comp hf
+
+theorem _root_.ContinuousWithinAt.re [TopologicalSpace α] (hf : ContinuousWithinAt f s x) :
+    ContinuousWithinAt (fun x ↦ re (f x)) s x := Filter.Tendsto.re hf
+
+theorem _root_.ContinuousAt.re [TopologicalSpace α] (hf : ContinuousAt f x) :
+    ContinuousAt (fun x ↦ re (f x)) x := Filter.Tendsto.re hf
+
+theorem _root_.ContinuousOn.re [TopologicalSpace α] (hf : ContinuousOn f s) :
+    ContinuousOn (fun x ↦ re (f x)) s := fun x hx ↦ (hf x hx).re
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/Basic.lean:1070]: There is a minor issue with this, in that it's not clear from the name whether this is `Complex.re` or `RCLike.re`. Note that these are not reducibly defeq. I understand that it's the latter, but I think it needs to be included in the name.

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 2]
```diff
@@ -1060,6 +1096,37 @@ theorem imCLM_apply : ((imCLM : StrongDual ℝ K) : K → ℝ) = im :=
...
+    Continuous (fun x ↦ im (f x)) := continuous_im.comp hf
+
+theorem _root_.ContinuousWithinAt.im [TopologicalSpace α] (hf : ContinuousWithinAt f s x) :
+    ContinuousWithinAt (fun x ↦ im (f x)) s x := Filter.Tendsto.im hf
+
+theorem _root_.ContinuousAt.im [TopologicalSpace α] (hf : ContinuousAt f x) :
+    ContinuousAt (fun x ↦ im (f x)) x := Filter.Tendsto.im hf
+
+theorem _root_.ContinuousOn.im [TopologicalSpace α] (hf : ContinuousOn f s) :
+    ContinuousOn (fun x ↦ im (f x)) s := fun x hx ↦ (hf x hx).im
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/Basic.lean:1127]: same issue, and for `ofReal` and `conj` too.

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 3]
```diff
@@ -1132,26 +1230,43 @@ theorem ofRealCLM_apply : (ofRealCLM : ℝ → K) = ofReal :=
...
+theorem continuous_normSq : Continuous (normSq : K → ℝ) :=
+  (continuous_re.mul continuous_re).add (continuous_im.mul continuous_im)
+
+@[continuity, fun_prop]
+theorem _root_.Continuous.normSq [TopologicalSpace α] (hf : Continuous f) :
+    Continuous (fun x ↦ normSq (f x)) := continuous_normSq.comp hf
+
+theorem _root_.LipschitzWith.norm [PseudoEMetricSpace α] {Kf : NNReal} {f : α → K}
+    (hf : LipschitzWith Kf f) : LipschitzWith Kf (fun x ↦ ‖f x‖) := by
+  simpa using lipschitzWith_one_norm.comp hf
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/Basic.lean]: This doesn't belong here as it holds much more generally.

File: Mathlib/Analysis/Normed/Lp/lpSpace.lean [hunk 4]
```diff
@@ -268,6 +258,43 @@ theorem const_mul {f : α → 𝕜} (hf : Memℓp f p) (c : 𝕜) : Memℓp (fun
...
+  · refine memℓp_gen <| Summable.of_nonneg_of_le ?_ ?_ (hf.summable hp)
+    · exact fun x ↦ Real.rpow_nonneg (norm_nonneg _) _
+    · exact fun x ↦ by gcongr; exact abs_im_le_norm (f x)
+
+theorem ofReal {f : α → ℝ} (hf : Memℓp f p) :
+    Memℓp (fun x ↦ (f x : 𝕜)) p := by
+  rcases p.trichotomy with (rfl | rfl | hp)
+  · exact memℓp_zero <| hf.finite_dsupport.subset fun i => by simp
+  · exact memℓp_infty <| by simpa [BddAbove]
+  · exact memℓp_gen <| by simpa using hf.summable hp
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Lp/lpSpace.lean]: This suffers the same naming issues as I documented elsewhere. However, there's an additional thing here, which is that we're missing a bit of API for `Memℓp` that would make proving these easier / trivial. I've got some of this API at the top of the file here: https://github.com/j-loreaux/LeanOA/blob/master/LeanOA/Lp/lpSpace.lean You are welcome to PR those bits about `Memℓp`. In particular, all of these should be trivially provable with the `Memℓp.mono` result there.

Comment (ster-oc) [reply Mathlib/Analysis/Normed/Lp/lpSpace.lean]: Thanks, I will probably PR the `Memℓp.mono` to golf a bit then

**Comment by ster-oc** [comment]
Sorry for the delay,
I have moved `LipschitzWith.norm` and used `Memℓp.mono` to golf a bit (probably one could golf more).
I also added `Memℓp.norm` and the one related lemma from your repo because it seems relevant with the PR.

There is also `Summable.re` to add, but since `Multipliable.re` does not hold, I am not sure where to put it in Mathlib.

-awaiting-author

File: Mathlib/Analysis/Normed/Lp/lpSpace.lean [hunk 5]
```diff
@@ -134,30 +134,36 @@ theorem zero_memℓp : Memℓp (0 : ∀ i, E i) p := by
...
-  rcases p.trichotomy with (rfl | rfl | hp)
-  · apply memℓp_zero
-    simp [hf.finite_dsupport]
-  · apply memℓp_infty
-    simpa using hf.bddAbove
-  · apply memℓp_gen
-    simpa using hf.summable hp
+theorem mono {F : α → Type*} [∀ i, NormedAddCommGroup (F i)] {f : (i : α) → E i}
+    {g : (i : α) → F i} (hg : Memℓp g p) (hfg : ∀ i, ‖f i‖ ≤ ‖g i‖) :
+    Memℓp f p := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Lp/lpSpace.lean:150]: I determined that I think this is actually the better version. There's no reason to invoke the type family `F`. Potentially this may require you to refactor later proofs.
```suggestion
theorem mono {f : (i : α) → E i} {g : α → ℝ}
    (hg : Memℓp g p) (hfg : ∀ i, ‖f i‖ ≤ g i) :
    Memℓp f p := by
  replace hfg (i) : ‖f i‖ ≤ ‖g i‖ := (hfg i).trans (Real.le_norm_self _)
```

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 6]
```diff
@@ -1048,6 +1053,37 @@ theorem reCLM_apply : ((reCLM : StrongDual ℝ K) : K → ℝ) = re :=
...
+
+theorem _root_.ContinuousOn.re [TopologicalSpace α] (hf : ContinuousOn f s) :
+    ContinuousOn (fun x ↦ re (f x)) s := fun x hx ↦ (hf x hx).re
+
+theorem lipschitzWith_re : LipschitzWith 1 (re (K := K)) := by
+  intro x y
+  simp only [ENNReal.coe_one, one_mul, edist_eq_enorm_sub]
+  calc ‖re x - re y‖ₑ
+  _ = ‖re (x - y)‖ₑ := by rw [map_sub re x y]
+  _ ≤ ‖x - y‖ₑ := by rw [enorm_le_iff_norm_le]; exact norm_re_le_norm (x - y)
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/Basic.lean:1077]: In another file, this can be proven in one line as:
```lean
import Mathlib.Analysis.RCLike.Lemmas

variable {K : Type*} [RCLike K]

open RCLike

theorem lipschitzWith_re : LipschitzWith 1 (re (K := K)) :=
  reCLM (K := K) |>.lipschitzWith_of_opNorm_le (by simp)
```
But even in this file, you can do this as:
```suggestion
theorem lipschitzWith_re : LipschitzWith 1 (re (K := K)) := by
  simpa using AddMonoidHomClass.lipschitz_of_bound
    (reCLM (K := K)) 1 (by simpa using norm_re_le_norm)
```

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 7]
```diff
@@ -1074,6 +1110,37 @@ theorem imCLM_apply : ((imCLM : StrongDual ℝ K) : K → ℝ) = im :=
...
+
+theorem _root_.ContinuousOn.im [TopologicalSpace α] (hf : ContinuousOn f s) :
+    ContinuousOn (fun x ↦ im (f x)) s := fun x hx ↦ (hf x hx).im
+
+theorem lipschitzWith_im : LipschitzWith 1 (im (K := K)) := by
+  intro x y
+  simp only [ENNReal.coe_one, one_mul, edist_eq_enorm_sub]
+  calc ‖im x - im y‖ₑ
+  _ = ‖im (x - y)‖ₑ := by rw [map_sub im x y]
+  _ ≤ ‖x - y‖ₑ := by rw [enorm_le_iff_norm_le]; exact norm_im_le_norm (x - y)
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/Basic.lean:1134]: likewise here.

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 8]
```diff
@@ -1113,6 +1180,37 @@ instance (priority := 100) : ContinuousStar K :=
...
+
+theorem _root_.ContinuousOn.conj [TopologicalSpace α] (hf : ContinuousOn f s) :
+    ContinuousOn (fun x ↦ conj (f x)) s := fun x hx ↦ (hf x hx).conj
+
+theorem lipschitzWith_conj : LipschitzWith 1 (conj : K → K) := by
+  intro x y
+  simp only [ENNReal.coe_one, one_mul, edist_eq_enorm_sub]
+  calc ‖conj x - conj y‖ₑ
+  _ = ‖conj (x - y)‖ₑ := by rw [map_sub conj x y]
+  _ ≤ ‖x - y‖ₑ := by rw [enorm_le_iff_norm_le, norm_conj]
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/Basic.lean:1204]: this one too.

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 9]
```diff
@@ -1146,26 +1244,39 @@ theorem ofRealCLM_apply : (ofRealCLM : ℝ → K) = ofReal :=
...
-  _ ≤ ‖x - y‖ₑ := by rw [enorm_le_iff_norm_le]; exact norm_im_le_norm (x - y)
+end ofReal
+
+@[continuity]
+theorem continuous_normSq : Continuous (normSq : K → ℝ) :=
+  (continuous_re.mul continuous_re).add (continuous_im.mul continuous_im)
+
+@[continuity, fun_prop]
+theorem _root_.Continuous.normSq [TopologicalSpace α] (hf : Continuous f) :
+    Continuous (fun x ↦ normSq (f x)) := continuous_normSq.comp hf
```
Comment (j-loreaux) [inline Mathlib/Analysis/RCLike/Basic.lean:1279]: Can you generate this with `@[to_fun]`?
